US08859766B2
Preparation of ethyl {(N-benzoyl)-5-iodocytosine-1-yl}acetate (2)
To a stirred solution of 8.3 g of N-benzoyl-5-iodocytosine dissolved in 60 ml DMF, was added at 0° C. 1.06 g of 55% NaH in mineral oil, and the solution was stirred at RT for 2 h. After 2.7 ml ethyl bromoacetate was added to the reaction mixture, the reaction solution was stirred for another 24 h at RT, which was followed by removal of the solvent under reduced pressure. The resulting residue was dissolved and the insoluble material was filtered off. The filtrate was washed two times with saturated aq ammonium chloride, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The resulting residue was purified by column chromatography (1:1 hexane/EA) to yield 6.5 g of compd 2 (compd b in Scheme 1) as a yellow solid. mp 154-5° C. 1H NMR (400 MHz; CDCl3) δ 13.31 (br s, 1H), 8.37 (d, J=7.2 Hz, 2H), 7.69 (s, 1H), 7.55 (t, J=7.4 Hz, 1H), 7.46 (t, J=7.6 Hz, 2H), 4.49 (s, 2H), 4.27 (q, J=7.2 Hz, 2H), 1.32 (t, J=7.2 Hz, 3H).

reactant | N-benzoyl-5-iodocytosine | 8.3 g | C(C1=CC=CC=C1)(=O)NC1=NC(NC=C1I)=O | C11H8IN3O2
reactant | NaH | 1.06 g | [H-].[Na+]
reactant | ethyl bromoacetate | 2.7 ml | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | ethyl {(N-benzoyl)-5-iodocytosine-1-yl}acetate | C(C1=CC=CC=C1)(=O)NC1=NC(N(C=C1I)CC(=O)OCC)=O | C15H14IN3O4
